US04207321
29: 1,3-Dimethyl-7-(5-methyl-hex-5-enyl)-xanthine
0.5 g of sodium hydride are reacted with 15 ml of anhydrous dimethyl-sulphoxide under a nitrogen atmosphere with stirring at 80° C. and cooled to 15° C. after 25 minutes. To prepare triphenyl-methylene-phosphorane, 8.1 g of methyl-triphenyl phosphonium iodide in 20 ml of anhydrous dimethyl-sulphoxide are added to this solution. After stirring for 10 minutes at room temperature, 5.6 g of 1,3-dimethyl-7-(5-oxohexyl)-xanthine in 10 ml of dimethylsulphoxide are added dropwise over 10 minutes, and the temperature is not allowed to exceed 20° C. After standing overnight, the mixture is dissolved in water, extracted with diethyl ether and the ether phase is separated and dried over Na2SO4. The product obtained after evaporation at reduced pressure is subsequently subjected to a purification by column chromatography on silica gel with methylene chloride/acetone (1:1) as eluent. The resulting product is in the form of an oil after distillation under reduced pressure. Yield: 3.5 g (63.3% of theory relative to the starting product used); refractive index: nD20 =1.5445.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | triphenyl-methylene-phosphorane | C1(=CC=CC=C1)P(=C)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17P
reactant | methyl-triphenyl phosphonium iodide | 8.1 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1,3-dimethyl-7-(5-oxohexyl)-xanthine | 5.6 g | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCC(C)=O)C | C13H18N4O3
solvent | dimethyl-sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | dimethyl-sulphoxide | 15 ml | CS(=O)C | C2H6OS
product | 1,3-Dimethyl-7-(5-methyl-hex-5-enyl)-xanthine | CN1C(=O)N(C=2N=CN(C2C1=O)CCCCC(=C)C)C | C14H20N4O2
